US06498169B1
Synthesis of 1,3-Dimethoxy-5-iodo-2-isopropoxybenzene
To a suspension of 2,6-dimethoxy-4-iodophenol (1.0 g) and potassium carbonate (938 mg) in DMF (10 mL) was added isopropyl iodide (507. L). The mixture was stirred at 60° C. for 3 hours and evaporated. Ethyl acetate and water were added to the residue, the organic layer was separated, washed with brine, dried over anhydrous sodium sulfate and evaporated. The residue was applied to a column of silica gel using hexane-ethyl acetate (5:1) as an eluent to give the title compound.

reactant | 2,6-dimethoxy-4-iodophenol | 1.0 g | COC1=C(C(=CC(=C1)I)OC)O | C8H9IO3
reactant | potassium carbonate | 938 mg | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl iodide | C(C)(C)I | C3H7I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1,3-Dimethoxy-5-iodo-2-isopropoxybenzene | COC1=C(C(=CC(=C1)I)OC)OC(C)C | C11H15IO3
